US07608627B2
Reaction of (2-hydroxyethyl)isopropylcarbamic acid tert-butyl ester with N-hydroxyphthalimide following the procedure described for Reference Example 14, except purification by column chromatography (silica gel, 75:25 hexanes/EtOAc to 50:50 hexanes/EtOAc), gave tert-butyl[2-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]ethyl]isopropylcarbamate (960 mg, 57%) as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 1.15-1.20 (6H, br s), 1.43 (9H, s), 3.48-3.50 (2H, s), 4.08-4.15 (1H, m), 4.25-4.28 (2H, m), 7.74-7.85 (4H m).

reactant | (2-hydroxyethyl)isopropylcarbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C(C)C)CCO)=O | C10H21NO3
reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
product | tert-butyl[2-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]ethyl]isopropylcarbamate | 960 mg, 57% | C(C)(C)(C)OC(N(C(C)C)CCON1C(C2=CC=CC=C2C1=O)=O)=O | C18H24N2O5
